US07625905B2
4-{3-[5-(4,6-Dimethyl-pyrimidine-5-carbonyl)-hexahydro-pyrrolo[3,4-c]pyrrol-2-yl]-1-phenyl-propyl}-piperidine-1-carboxylic acid isopropylamide (V-3)
V-2, V4 and V5 were prepared analogously from (4,6-dimethyl-pyrimidin-5-yl)-[5-(3-phenyl-3-piperidin-4-yl-propyl)-hexahydro-pyrrolo[3,4-c]pyrrol-2-yl]-methanone using 2-isocyanato-2-methyl-propane, isocyanato ethane and isocyanato cyclopentane respectively.

reactant | (4,6-dimethyl-pyrimidin-5-yl)-[5-(3-phenyl-3-piperidin-4-yl-propyl)-hexahydro-pyrrolo[3,4-c]pyrrol-2-yl]-methanone | CC1=NC=NC(=C1C(=O)N1CC2CN(CC2C1)CCC(C1CCNCC1)C1=CC=CC=C1)C | C27H37N5O
reactant | 2-isocyanato-2-methyl-propane | N(=C=O)C(C)(C)C | C5H9NO
reactant | isocyanato ethane | N(=C=O)CC | C3H5NO
reactant | isocyanato cyclopentane | N(=C=O)C1CCCC1 | C6H9NO
product | 4-{3-[5-(4,6-Dimethyl-pyrimidine-5-carbonyl)-hexahydro-pyrrolo[3,4-c]pyrrol-2-yl]-1-phenyl-propyl}-piperidine-1-carboxylic acid isopropylamide | C(C)(C)NC(=O)N1CCC(CC1)C(CCN1CC2CN(CC2C1)C(=O)C=1C(=NC=NC1C)C)C1=CC=CC=C1 | C31H44N6O2
